US07091211B2
Step D: tert-Butyl 4-(1-hydroxyeth-1-yl)-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate
To a solution of tert-butyl 4-formyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate (6.3 g, 17 mmol) in THF (170 mL) at −70° C. was added 1.4M methyl lithium in ether (13.3 mL, 19 mmol). After 2 h, an additional amount of 1.4M methyl lithium in ether (2.5 mL) was added. After an additional 30 min, the reaction was poured into aq. sodium bicarbonate and extracted three times with ether. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated to afford the title product (6.6 g) which was used directly in the next step.

reactant | tert-butyl 4-formyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate | 17 mmol, 6.3 g | C(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C19H37NO4Si
reactant | methyl lithium | 1.4M | C[Li]
reactant | methyl lithium | 1.4M | C[Li]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 170 mL | C1CCOC1 | C4H8O
solvent | ether | 2.5 mL | CCOCC | C4H10O
solvent | ether | 19 mmol, 13.3 mL | CCOCC | C4H10O
product | tert-Butyl 4-(1-hydroxyeth-1-yl)-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate | 6.6 g | OC(C)C1(CCN(CC1)C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C20H41NO4Si
